US05358538
100 ml of methanol was put into a 200 ml conical flask, to which was added 6 g of D-glucosamine hydrochloride and 5 g of sodium metoxide, the mixture was stirred at a room temperature for one hour, and the resulting insoluble matter (sodium chloride) was filtered off to obtain a solution of free D-glucosamine.

reactant | D-glucosamine hydrochloride | 6 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | sodium | 5 g | [Na] | Na
solvent | methanol | 100 ml | CO | CH4O
product | D-glucosamine | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
